US08440661B2
trans-Phenylmethyl 4-[N,N-dibenzylamino]cyclohexanecarboxylate
To an 80° C. heated mixture of trans-4-Aminocyclohexanecarboxylic acid (8 g, 55.97 mmol) and K2CO3 (23.4 g) in 112 mL of CH3CN, was added dropwise a solution of BnBr (23.3 mL, 195.5 mmol) in 70 mL of CH3CN by addition funnel. Reaction stirred overnight at 80° C. The reaction was cooled to room temperature and filtered. Precipitate did not form in filtrate like it did with the cis-somer so the filtrate was concentrated to an oil and carried on to next step (23.01 g, 99% yield).

reactant | trans-4-Aminocyclohexanecarboxylic acid | 55.97 mmol, 8 g | N[C@@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | K2CO3 | 23.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 195.5 mmol, 23.3 mL | C1=CC=C(C=C1)CBr | C7H7Br
solvent | CH3CN | 112 mL | CC#N | C2H3N
solvent | CH3CN | 70 mL | CC#N | C2H3N
product | trans-Phenylmethyl 4-[N,N-dibenzylamino]cyclohexanecarboxylate | 99% yield | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H]1CC[C@H](CC1)C(=O)OCC1=CC=CC=C1 | C28H31NO2
